US04569934
3-Methyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine
A mixture of 5.18 g of 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine and 4.60 g of aminoacetoneethyleneketal was heated at 150° C. under argon for 4 hours. The cooled mixture was dissolved in dichloromethane and the solution passed through a short pad of hydrous magnesium silicate. The filtrate was concentrated, diluted with hexane and chilled to give 0.8 g of crystals, mp 98°-100° C.

reactant | 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine | 5.18 g | ClC=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Methyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine | 0.8 g | CC1=CN=C2N1N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C14H10F3N3
